US07683056B2
2-[3,5-Bis(trifluoromethyl)phenyl]-N-[4-(4-fluoro-2-methylphenyl)-6-(hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl)-3-pyridinyl]-N,2-dimethylpropanamide (E19)
A 8 ml sealed vial was charged with 124 mg (0.233 mmol) of 2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-chloro-4-(4-fluoro-2-methylphenyl) -3-pyridinyl]-N,2-dimethylpropanamide (WO 2005/002577); 83 mg (0.584 mmol) of octahydropyrazino[2,1-c][1,4]oxazine (EP 472826), 90 mg (0.701 mmol) of potassium carbonate; the reagents were dissolved in 0.5 ml of DMSO. The crude product was purified by flash chromatography (silica, cyclohexane/EtOAc 90/10-30/70) affording the title compound as a white solid 85 mg (0.133 mmol).

reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-chloro-4-(4-fluoro-2-methylphenyl) -3-pyridinyl]-N,2-dimethylpropanamide | 0.233 mmol, 124 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)Cl)(C)C)(F)F | C25H20ClF7N2O
reactant | octahydropyrazino[2,1-c][1,4]oxazine | 0.584 mmol, 83 mg | C1OCCN2C1CNCC2 | C7H14N2O
reactant | potassium carbonate | 0.701 mmol, 90 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 0.5 ml | CS(=O)C | C2H6OS
product | 2-[3,5-Bis(trifluoromethyl)phenyl]-N-[4-(4-fluoro-2-methylphenyl)-6-(hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl)-3-pyridinyl]-N,2-dimethylpropanamide | 0.133 mmol, 85 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1CC2COCCN2CC1)(C)C)(F)F | C32H33F7N4O2
